US06953806B2
In analogy to the procedure described in example 3.4, trans-[4-(4-hydroxy-butoxy)-cyclohexylmethyl]-methyl-carbamic acid 4-chloro-phenyl ester was treated with methanesulfonyl chloride to yield trans-methanesulfonic acid 4-(4-{[(4-chloro-phenoxy-carbonyl)-methyl-amino]-methyl}-cyclohexyloxy)-butyl ester as colorless viscous, MS: 448 (MH+, 1 Cl).

reactant | trans-[4-(4-hydroxy-butoxy)-cyclohexylmethyl]-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)OCCCCO)=O | C19H28ClNO4
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | trans-methanesulfonic acid 4-(4-{[(4-chloro-phenoxy-carbonyl)-methyl-amino]-methyl}-cyclohexyloxy)-butyl ester | ClC1=CC=C(OC(=O)N(C)C[C@@H]2CC[C@H](CC2)OCCCCOS(=O)(=O)C)C=C1 | C20H30ClNO6S
